### PR TITLE
[Merged by Bors] - feat: port continuity tactic

### PR DESCRIPTION
**Pull request by mcdoll**
We implement the continuity tactic using aesop, this makes it more robust and reduces the code to trivial macros.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/Continuity.lean [hunk 1]
```diff
@@ -0,0 +1,22 @@
+import Mathlib.Topology.Basic
```
Comment (eric-wieser) [inline test/Continuity.lean:1]: I think it's worth a note in a comment that this is not a port of https://github.com/leanprover-community/mathlib/blob/master/test/continuity.lean (yet)

File: test/Continuity.lean [hunk 2]
```diff
@@ -0,0 +1,22 @@
...
+  Continuous (fun x => f (g x)) := by continuity
+
+example {f : X → Y} {g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+  Continuous (f ∘ g ∘ f) := by continuity
+
+example {f : X → Y} {g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+  Continuous (f ∘ g) := by continuity
+
+-- Todo: more interesting examples when more algebra is ported
+
```
Comment (mcdoll) [inline test/Continuity.lean:17]:
```suggestion

-- Porting note: port the tests from mathlib3 once we have the necessary theory files

```

File: test/Continuity.lean (hunk 1 above)
Comment (mcdoll) [reply test/Continuity.lean:1]: Good point, thanks. I've added a porting note.

File: Mathlib/Topology/Basic.lean [hunk 3]
```diff
@@ -1640,15 +1641,24 @@ theorem preimage_interior_subset_interior_preimage {f : α → β} {s : Set β}
   interior_maximal (preimage_mono interior_subset) (isOpen_interior.preimage hf)
 #align preimage_interior_subset_interior_preimage preimage_interior_subset_interior_preimage
 
+@[continuity]
 theorem continuous_id : Continuous (id : α → α) :=
   continuous_def.2 fun _ => id
 #align continuous_id continuous_id
 
+@[continuity]
+theorem continuous_id' : Continuous (fun (x : α) => x) := continuous_id
```
Comment (j-loreaux) [inline Mathlib/Topology/Basic.lean:1650]: I would put this in `Mathlib/Tactic/Continuity` and/or add a note saying that this exists because of semireducible transparency issues with `continuous_id` and the continuity tactic.
```suggestion
theorem continuous_id' : Continuous (fun (x : α) => x) := continuous_id
```

File: Mathlib/Topology/Basic.lean [hunk 4]
```diff
@@ -1640,15 +1641,24 @@ theorem preimage_interior_subset_interior_preimage {f : α → β} {s : Set β}
...
+
+@[continuity]
 theorem Continuous.comp {g : β → γ} {f : α → β} (hg : Continuous g) (hf : Continuous f) :
     Continuous (g ∘ f) :=
   continuous_def.2 fun _ h => (h.preimage hg).preimage hf
 #align continuous.comp Continuous.comp
 
+@[continuity]
+theorem Continuous.comp' {g : β → γ} {f : α → β} (hg : Continuous g) (hf : Continuous f) :
+    Continuous (fun x => g (f x)) := hg.comp hf
```
Comment (j-loreaux) [inline Mathlib/Topology/Basic.lean:1660]: Same here.

File: Mathlib/Tactic/Continuity.lean [hunk 5]
```diff
@@ -0,0 +1,29 @@
...
+# Continuity
+
+We define the `continuity` tactic using `aesop`. -/
+
+declare_aesop_rule_sets [Continuous]
+
+/--
+The `continuity` attribute used to tag continuity statements for the `continuity` tactic. -/
+macro "continuity" : attr =>
+  `(attr|aesop safe apply (rule_sets [$(Lean.mkIdent `Continuous):ident]))
```
Comment (j-loreaux) [inline Mathlib/Tactic/Continuity.lean:19]: I think this is fine for now. However, without backtracking there may be cases where we won't want `Continuous.comp` to trigger (e.g., in situations like maps into subtypes where you want to use `continuous_induced_rng` and you conclude continuity from the fact that the composition is continuous and reduces somehow; this wasn't marked with `continuity` before though). In any case, this should be fixable in the future with `macro_rules` that allow us to set various `aesop` options, or else those could be manually applied when necessary.

File: test/Continuity.lean [hunk 6]
```diff
@@ -0,0 +1,24 @@
...
+example {f : X → Y} {g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+  Continuous (fun x => f (g x)) := by continuity
+
+example {f : X → Y} {g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+  Continuous (f ∘ g ∘ f) := by continuity
+
+example {f : X → Y} {g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+  Continuous (f ∘ g) := by continuity
+
+-- Todo: more interesting examples when more algebra is ported
```
Comment (j-loreaux) [inline test/Continuity.lean:16]: I suggest adding tests for all the things that the mathlib3 version of `continuity` was designed to explicitly work around (e.g., issues with `Continuous.comp` and `continuous_const`).

**Review by j-loreaux — COMMENTED** [review]
A few minor issues, but otherwise I think this looks good as a first pass at the tactic and should be merged.

File: Mathlib/Topology/Basic.lean (hunk 3 above)
Comment (mcdoll) [reply Mathlib/Topology/Basic.lean:1650]: I can't put it in the tactic file, since the tactic actually knows nothing about topological spaces; the import structure got reversed.

Comment (dupuisf) [inline Mathlib/Topology/Basic.lean:1650]:
```suggestion
-- This is needed due to reducibility issues with the `continuity` tactic.
@[continuity]
theorem continuous_id' : Continuous (fun (x : α) => x) := continuous_id
```

File: Mathlib/Topology/Basic.lean [hunk 7]
```diff
@@ -1640,15 +1641,24 @@ theorem preimage_interior_subset_interior_preimage {f : α → β} {s : Set β}
...
+theorem continuous_id' : Continuous (fun (x : α) => x) := continuous_id
+
+@[continuity]
 theorem Continuous.comp {g : β → γ} {f : α → β} (hg : Continuous g) (hf : Continuous f) :
     Continuous (g ∘ f) :=
   continuous_def.2 fun _ h => (h.preimage hg).preimage hf
 #align continuous.comp Continuous.comp
 
+@[continuity]
+theorem Continuous.comp' {g : β → γ} {f : α → β} (hg : Continuous g) (hf : Continuous f) :
```
Comment (dupuisf) [inline Mathlib/Topology/Basic.lean:1659]:
```suggestion
-- This is needed due to reducibility issues with the `continuity` tactic.
@[continuity]
theorem Continuous.comp' {g : β → γ} {f : α → β} (hg : Continuous g) (hf : Continuous f) :
```

**Review by dupuisf — COMMENTED** [review]
This looks like a great first pass at this tactic, we can always adjust things as we go along.  Thanks!

bors d+

File: test/Continuity.lean [hunk 8]
```diff
@@ -0,0 +1,24 @@
...
+
+example {f : X → Y} {g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+  Continuous (fun x => f (g x)) := by continuity
+
+example {f : X → Y} {g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+  Continuous (f ∘ g ∘ f) := by continuity
+
+example {f : X → Y} {g : Y → X} (hf : Continuous f) (hg : Continuous g) :
+  Continuous (f ∘ g) := by continuity
+
```
Comment (mcdoll) [inline test/Continuity.lean:15]:
```suggestion

example (y : Y) : Continuous (fun (x : X) ↦ y) := by continuity

example {f : X → X} (y : Y) : Continuous (f ∘ (fun x ↦ y)) := by continuity

example {g : Y → Y} (y : Y) : Continuous ((fun x ↦ y) ∘ g) := by continuity

example {f : X → Y} (x : X) : Continuous (fun x' ↦ f x)) := by continuity
```

File: test/Continuity.lean [hunk 9]
```diff
@@ -0,0 +1,31 @@
...
+example (y : Y) : Continuous (fun (x : X) ↦ y) := by continuity
+
+example {f : X → X} (y : Y) : Continuous (f ∘ (fun x ↦ y)) := by continuity
+
+example {g : Y → Y} (y : Y) : Continuous ((fun x ↦ y) ∘ g) := by continuity
+
+example {f : X → Y} (x : X) : Continuous (fun x' ↦ f x)) := by continuity
```
Comment (mcdoll) [inline test/Continuity.lean:22]:
```suggestion
example (y : Y) : Continuous (fun (_ : X) ↦ y) := by continuity

example {f : Y → Y} (y : Y) : Continuous (f ∘ (fun (_ : X) ↦ y)) := by continuity

example {g : X → X} (y : Y) : Continuous ((fun _ ↦ y) ∘ g) := by continuity

example {f : X → Y} (x : X) : Continuous (fun (_ : X) ↦ f x)) := by continuity

```

**Comment by mcdoll** [comment]
bors merge
